US04898941
Into 6.0 ml of 6N--HCl solution was dissolved 4.2 g of 1-methyl-1,2,3,4-tetrahydroquinoline. To the solution was added 3 g of pyruvic acid and the mixture was heated with reflux for 20 hours. The reaction mixture was, after cooled, diluted with 100 ml of water and adjusted to pH 6 with addition of 20% aqueous solution of sodium hydroxide. The precipitated crystal was collected by filtration which was 4.0 g (yield 77%) of 2,2-bis(1-methyl-1,2,3,4-tetrahydroquinoline-6-yl)propionic acid as light brown crystal, having a melting point of 155°~157° C.

reactant | HCl | Cl | ClH
reactant | 1-methyl-1,2,3,4-tetrahydroquinoline | 4.2 g | CN1CCCC2=CC=CC=C12 | C10H13N
reactant | pyruvic acid | 3 g | C(C(=O)C)(=O)O | C3H4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2,2-bis(1-methyl-1,2,3,4-tetrahydroquinoline-6-yl)propionic acid | 4.0 g, yield 77% | CN1CCCC2=CC(=CC=C12)C(C(=O)O)(C)C=1C=C2CCCN(C2=CC1)C | C23H28N2O2
